US08980911B2
Step b: Synthesis of 2,6-dichloro-4-(methylcarbamoyl)benzoic acid
A well stirred mixture of methyl 2,6-dichloro-4-(methylcarbamoyl)benzoate (280 mg, 1 mmol, Step a) and anhydrous lithium iodide (429 mg, 3.2 mmol) in pyridine (3 mL) was heated under reflux for 3 hours. The reaction mixture was concentrated under vacuum to remove pyridine. The residue was acidified using ice-cooled dilute hydrochloric acid solution and partitioned with ethyl acetate. The combined organic layer was washed with brine, dried over sodium sulfate, and concentrated under vacuum to obtain a solid that upon triturating with cold diethyl ether yielded pure 2,6-dichloro-4-(methylcarbamoyl)benzoic acid (200 mg, 75%).

reactant | methyl 2,6-dichloro-4-(methylcarbamoyl)benzoate | ClC1=C(C(=O)OC)C(=CC(=C1)C(NC)=O)Cl | C10H9Cl2NO3
reactant | lithium iodide | 3.2 mmol, 429 mg | [I-].[Li+]
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | 2,6-dichloro-4-(methylcarbamoyl)benzoic acid | ClC1=C(C(=O)O)C(=CC(=C1)C(NC)=O)Cl | C9H7Cl2NO3
